US05179125
4-Morpholino-3-nitrobenzoic acid prepared in the same manner as in Example 10(1) (3.0 g) is dissolved in methanol (15 ml), and thereto is added dropwise a 10% solution of trimethylsilyldiazomethane in n-hexane in an equimolar amount, and the mixture is stirred at room temperature for one hour. Methanol is distilled off under reduced pressure, and the residue is extracted with ethyl acetate. The extract is washed with 5% aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution in this order, dried over anhydrous sodium sulfate, and ethyl acetate is distilled off under reduced pressure to give methyl 4-morpholino-3-nitrobenzoate (3.2 g).

reactant | 4-Morpholino-3-nitrobenzoic acid | O1CCN(CC1)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C11H12N2O5
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 15 ml | CO | CH4O
solvent | n-hexane | CCCCCC | C6H14
product | methyl 4-morpholino-3-nitrobenzoate | 3.2 g | O1CCN(CC1)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C12H14N2O5
